US20010056109A1
(c) 4-(4-Phenyl-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-imidazole
A mixture of 1-(1H-imidazol-4-yl)-4,4-diphenylbutan-1-ol hydrochloride (2.0 g) and methanesulfonic acid (40 ml) was heated at 100° C. for 40 minutes. The cooled reaction mixture was poured into water and was made alkaline with sodium hydroxide solution. The product was extracted into ethyl acetate, which was washed with water, dried with sodium sulfate and evaporated under reduced pressure to give a crude product of racemic cis and trans diastereomers. The product was purified by flash chromatography (elution with a dichloromethane—methanol gradient). The base product was dissolved in ethyl acetate and converted to its hydrochloride salt with hydrogen chloride gas.

reactant | 1-(1H-imidazol-4-yl)-4,4-diphenylbutan-1-ol hydrochloride | 2.0 g | Cl.N1C=NC(=C1)C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O
reactant | methanesulfonic acid | 40 ml | CS(=O)(=O)O | CH4O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(4-Phenyl-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-imidazole | C1(=CC=CC=C1)C1CCC(C2=CC=CC=C12)C=1N=CNC1 | C19H18N2
